US08912210B2
Step B: Methyl (6S)-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate
A solution of (6S)-3-iodo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one (51.0 g, 140 mmol), sodium acetate (23.0 g, 281 mmol) and dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium(II) dichloromethane adduct (2.9 g, 3.5 mmol) in MeOH (560 mL) was pressurized to 120 psi of CO at 23° C. and then heated at 80° C. for 12 h with stirring. The reaction mixture was diluted with water (1 L), and the precipitate collected by filtration, washed with water, and dried under nitrogen atmosphere to give the title compound, which was used without further purification. MS: m/z=296.1 (M+1).

reactant | (6S)-3-iodo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 140 mmol, 51.0 g | IC=1C=C2C(=NC1)C[C@@]1(C(NC3=NC=CC=C31)=O)C2 | C14H10IN3O
reactant | sodium acetate | 281 mmol, 23.0 g | C(C)(=O)[O-].[Na+]
reactant | MeOH | 560 mL | CO | CH4O
solvent | water | 1 L | O | H2O
catalyst | dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium(II) dichloromethane | 3.5 mmol, 2.9 g | ClCCl.[Pd+2].ClC1=C([C-](C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Methyl (6S)-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate | O=C1[C@@]2(C=3C(=NC=CC3)N1)CC=1C(=NC=C(C1)C(=O)OC)C2 | C16H13N3O3
